US07595398B2
4-Furan-2-yl-thiazol-2-ylamine
4-Bromo-thiazol-2-ylamine (100 mg, 0.34 mmol) was combined with 57 mg (0.51 mmol) of 2-furan boronic acid. To this mixture was added 5 mL of MeOH, 1 mL of sat. NaHCO3 (aq), and 0.8 mL of DMF. Reaction mixture was degassed and Pd[P(Ph)3]4 (25 mg) was added. Reaction mixture was heated at 70° C. for 7 hours. The reaction mixture was brought to room temperature and filtered. The filtrate was evaporated and purified using reverse phase HPLC.

reactant | 4-Bromo-thiazol-2-ylamine | 0.34 mmol, 100 mg | BrC=1N=C(SC1)N | C3H3BrN2S
reactant | 2-furan boronic acid | 0.51 mmol, 57 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | MeOH | 5 mL | CO | CH4O
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | 4-Furan-2-yl-thiazol-2-ylamine | O1C(=CC=C1)C=1N=C(SC1)N | C7H6N2OS
